US07504401B2
A 50 mL tube was charged with (3,5-dibromo-phenyl)-pyridin-3-yl-methanone (2.55 g, 7.5 mmol), bis(pinacolato)diboron (1.26 g, 5.0 mmol), potassium acetate (1.47 g, 15.0 mmol) and Pd(dppf)Cl2.CH2Cl2 (200 mg). DMSO (15 mL) was added, and the solution was degassed with nitrogen, then the tube was sealed. After heating the tube for 16 h at 80° C., the mixture was diluted with ethyl acetate (10 mL) and extracted with brine (10 mL, three times), and saturated sodium bicarbonate (5 mL), and the organic layer was dried. To a solution of the crude product prepared above in acetone (20 mL) was added an aqueous solution of Oxone (6.15 g in 30 mL water), and the reaction mixture was stirred vigorously for 10 min at room temperature. The reaction was quenched with aqueous sodium hydrogen sulfite. The brown solution was extracted with ethyl acetate, and the organic layer was extracted with brine followed by water, then dried and concentrated. The residue was passed through a short pad of Silica gel column using a gradient of 2% MeOH in methylene chloride to 4% MeOH in methylene chloride as an eluent to give (3-bromo-5-hydroxy-phenyl)-pyridin-3-yl-methanone (800 mg, 2.87 mmol, 57%) as a foam.

reactant | (3,5-dibromo-phenyl)-pyridin-3-yl-methanone | 7.5 mmol, 2.55 g | BrC=1C=C(C=C(C1)Br)C(=O)C=1C=NC=CC1 | C12H7Br2NO
reactant | bis(pinacolato)diboron | 5.0 mmol, 1.26 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 15.0 mmol, 1.47 g | C(C)(=O)[O-].[K+]
reactant | Oxone | 30 mL, 6.15 g | OOS(=O)[O-].[K+]
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
solvent | CH2Cl2 | 200 mg | C(Cl)Cl | CH2Cl2
product | (3-bromo-5-hydroxy-phenyl)-pyridin-3-yl-methanone | 2.87 mmol, 800 mg, 57% | BrC=1C=C(C=C(C1)O)C(=O)C=1C=NC=CC1 | C12H8BrNO2
